US04963557
EXAMPLE 19: 4,4 -DIPROPYLCYCLOHEXANE-1,1-DIACETIC ACID ANHYDRIDE
4,4-Dipropylcyclohexane-1,1 diacetic acid, prepared as described in Example 18, was dissolved in acetic anhydride and refluxed for 1-6h. The excess acetic anhydride was removed by distillation under reduced pressure and the residue was recrystallized form hexanes; m.p. 91-93° ; yield 90-95%.

reactant | 4,4-Dipropylcyclohexane-1,1 diacetic acid | C(CC)C1(CCC(CC1)(CC(=O)O)CC(=O)O)CCC | C16H28O4
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4,4 -DIPROPYLCYCLOHEXANE-1,1-DIACETIC ACID ANHYDRIDE | yield 90-95% | C(CC)C1(CCC2(CC1)CC(=O)OC(C2)=O)CCC | C16H26O3
